US05326740
(2) Production of dimethyl 4-[4'-(p-methoxyphenoxy)butoxy]phthalate (MPBP):
21.0 g (0.1 mol) of dimethyl 4-hydroxyphthalate, 25.9 g (0.1 mol) of p-methoxyphenoxy-l-bromobutane and 100 ml of acetonitrile were put in a 300-ml three-neck flask, and 6.91 g of potassium carbonate was added in three divided portions at two-hour intervals at 70° to 80° C. The reaction system was stirred further for 7 hours under reflux. The system was cooled to room temperature, and the salts formed and acetonitrile were taken out by filtration and distillation, respectively. Ethyl acetate and water were added to the residue, which was then washed well with water. Ethyl acetate was removed by distillation, and the residue was recrystallized from a mixed solvent of hexane/ethyl acetate (6/4, v/v). 28.0 g of the intended product was obtained, having a melting point of 68° C. The yield was 72.0%.

reactant | dimethyl 4-hydroxyphthalate | 0.1 mol, 21.0 g | OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H10O5
reactant | p-methoxyphenoxy-l-bromobutane | 0.1 mol, 25.9 g | COC1=CC=C(OC(CCC)Br)C=C1 | C11H15BrO2
reactant | potassium carbonate | 6.91 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | dimethyl 4-[4'-(p-methoxyphenoxy)butoxy]phthalate | 28.0 g, yield was 72.0% | COC1=CC=C(OCCCCOC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=C1 | C21H24O7
